US04088652
A solution of 3-acetyl-1-(p-aminophenyl)-3-azabicyclo[3.1.0]hexane in 8N hydrochloric acid is diazotized at 0° C, with aqueous sodium nitrite. The solution is then allowed to stand at ambient temperature until the evolution of nitrogen ceases. This mixture is then extracted with ether, and the extract is dried over sodium sulfate, filtered and then evaporated under reduced pressure to give 3-acetyl-1-(p-hydroxyphenyl)-3-azabicyclo[3.1.0]hexane.

reactant | 3-acetyl-1-(p-aminophenyl)-3-azabicyclo[3.1.0]hexane | C(C)(=O)N1CC2(CC2C1)C1=CC=C(C=C1)N | C13H16N2O
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | hydrochloric acid | 8N | Cl | ClH
product | 3-acetyl-1-(p-hydroxyphenyl)-3-azabicyclo[3.1.0]hexane | C(C)(=O)N1CC2(CC2C1)C1=CC=C(C=C1)O | C13H15NO2
